US04615966
To a 3-neck 500 ml round bottom flask containing 108.5 g (0.911 mol) indoline was added acetic anhydride at a rate such as to maintain a temperature below 25° C. After addition (one hour), the reddish sludge was poured into ice water, filtered and washed several times with water. It was allowed to dry overnight and recrystallized from 700 ml of ethanol and gave 116.6 g (72.4% by weight yield) of N-acetylindoline.

reactant | indoline | 0.911 mol, 108.5 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetylindoline | 116.6 g | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
